US06080743
b) 5-Aminomethyl-7-bromo-2,3-dimethoxy-1,2,3,4-tetrahydroquinoxaline
4.47 g (13.8 mmol) of 5-azidomethyl-7-bromo-2,3-dimethoxy-1,2,3,4-tetrahydroquinoxaline are dissolved in 35 ml of tetrahydrofuran, and 3.98 g (1.1 equiv.) of triphenylphosphine are added. The mixture is stirred at 20° C. for 4 hours. 746 mg of water are added and the mixture is stirred for a further three hours. The solid is filtered off and the filtrate is extracted with ethyl acetate and sodium carbonate solution. The organic phases are combined, washed with brine, dried over magnesium sulfate and concentrated by evaporation. The residue is chromatographed on silica gel with ethyl acetate/petroleum ether (1:1).

reactant | 5-azidomethyl-7-bromo-2,3-dimethoxy-1,2,3,4-tetrahydroquinoxaline | 13.8 mmol, 4.47 g | N(=[N+]=[N-])CC1=C2NC(C(NC2=CC(=C1)Br)OC)OC | C11H14BrN5O2
reactant | triphenylphosphine | 3.98 g, 1.1 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 746 mg | O | H2O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 5-Aminomethyl-7-bromo-2,3-dimethoxy-1,2,3,4-tetrahydroquinoxaline | NCC1=C2NC(C(NC2=CC(=C1)Br)OC)OC | C11H16BrN3O2
